US20010020034A1
3-(2,5-Difluoro-4-methyl-benzyloxy)-5-[3-(6-dimethylamino-hexyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and N1,N1-Dimethyl-hexane-1,6-diamine by the procedure analogous to Example 6. HPLC ret. time: 3.4 minutes. 1H NMR (400 MHz, CD3OD) δ 7.18 (dd, 1H, J=6.0, 9.2 Hz), 7.03 (dd, 1H, J=6.4, 10 Hz), 5.45 (s, 2H), 3.19 (t, 2H, J=7.2 Hz), 2.28 (m, 2H), 2.24 (s, 3H), 2.22 (s, 6H), 1.55-1.45 (m, 4H), 1.35-1 .33 (m, 4H) ppm; MS (APCl, m/z): 470 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | N1,N1-Dimethyl-hexane-1,6-diamine | CN(CCCCCCN)C | C8H20N2
product | 3-(2,5-Difluoro-4-methyl-benzyloxy)-5-[3-(6-dimethylamino-hexyl)-ureido]-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCCCN(C)C)C=C(C(=C1)C)F | C21H29F2N5O3S
